US07576092B2
Step A: 2,4,5-Trichloro-6-(5-chloro-2-methoxy-phenyl)-pyrimidine.
In a 250 mL three-neck flask fitted with a degassing tube and temperature probe, acetonitrile (100 mL) and water (25 mL) were degassed with N2 for 30 min while stirring. 2,4,5,6-Tetrachloropyrimidine (8.77 g, 0.0402 mol, 1.5 equiv) and triphenylphosphine (0.70 g, 2.6 mmol, 0.1 equiv) were added and the resulting mixture was degassed for 15 min. 5-Chloro-2-methoxy-phenylboronic acid (5.00 g, 0.0268 mol, 1.0 equiv), K3PO4 (11.39 g, 0.0536 mol, 2.0 equiv) and palladium acetate (301 mg, 1.3 mmol, 0.05 equiv) were added and the resulting mixture was degassed for 5 min. After 2 h at rt, the reaction mixture was poured into CH2Cl2 (250 mL) and washed twice with water (125 mL). The organic layer was dried and concentrated. The crude product was purified by FCC to give a white solid (5.97 g, 69%). MS (ESI+): mass calcd. for C11H7Cl4N2O, 322.9; m/z found, 323.0 [M+H+]. 1H NMR (CDCl3): 7.45 (dd, J=8.9, 2.6 Hz, 1H), 7.31 (d, J=2.6 Hz, 1H), 6.94 (d, J=8.9 Hz, 1H), 3.82 (s, 3H).

reactant | 2,4,5,6-Tetrachloropyrimidine | 0.0402 mol, 8.77 g, 1.5 equiv | ClC1=NC(=C(C(=N1)Cl)Cl)Cl | C4Cl4N2
reactant | triphenylphosphine | 2.6 mmol, 0.70 g, 0.1 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-Chloro-2-methoxy-phenylboronic acid | 0.0268 mol, 5.00 g, 1.0 equiv | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | K3PO4 | 0.0536 mol, 11.39 g, 2.0 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 1.3 mmol, 301 mg, 0.05 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,4,5-Trichloro-6-(5-chloro-2-methoxy-phenyl)-pyrimidine | 5.97 g, 69% | ClC1=NC(=C(C(=N1)Cl)Cl)C1=C(C=CC(=C1)Cl)OC | C11H6Cl4N2O
